US05149709
To a solution of 4-nitrophenylacetic acid (200 g) in benzene (1.5 L) was added oxalyl chloride (200 mL). The mixture was warmed to 50°-60° C. for 2 hrs, after which time benzene and excess oxalyl chloride were distilled off under vacuum at 50° C. until a final volume of 500 mL was achieved. The residue was diluted with benzene (1 L) and cooled to 0° C. To this was added anhydrous aluminum chloride (160 g) portion-wise over 15 minutes. Thereafter, the mixture was stirred overnight at room temperature. The reaction mixture was poured over a mixture of ice (3 L) and concentrated HCl (1 L). The resulting slurry was filtered through celite and the precipitate washed with ethyl acetate. The combined filtrates were washed with water, saturated sodium bicarbonate and with brine, dried over sodium sulfate and evaporated to give 227 grams of 2-(4-nitrophenyl)-1-phenylethanone.

reactant | 4-nitrophenylacetic acid | 200 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
reactant | oxalyl chloride | 200 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | benzene | 1.5 L | C1=CC=CC=C1 | C6H6
product | 2-(4-nitrophenyl)-1-phenylethanone | 227 grams | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)C1=CC=CC=C1 | C14H11NO3
